US06927230B2
Potassium carbonate (697 mg, 5.05 mmol) was added to a solution of 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-ol (0.3 g, 1.01 mmol) in dimethylformamide (3 mL). After 10 minute stirring, 2,2,2-trifluoroethyl iodide (0.497 mL, 5.05 mmol) was added to the mixture and the mixture was heated at 100° C. for 3 hours. After cooling, 100 mL of ethyl acetate and 20 mL of water were poured into the mixture. The organic layer was separated, washed with water and brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate 10:1-5:1). The desired product was triturated with hexane, isolated by filtartion, and dried in vacuo to give 1,5-bis(4-methoxyphenyl)-3-(2,2,2-trifluoroethoxy)-1H-1,2,4-triazole (205 mg, 53.6%).

reactant | Potassium carbonate | 5.05 mmol, 697 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-ol | 1.01 mmol, 0.3 g | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)O | C16H15N3O3
reactant | 2,2,2-trifluoroethyl iodide | 5.05 mmol, 0.497 mL | FC(CI)(F)F | C2H2F3I
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | 1,5-bis(4-methoxyphenyl)-3-(2,2,2-trifluoroethoxy)-1H-1,2,4-triazole | 205 mg, 53.6% | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)OCC(F)(F)F | C18H16F3N3O3
